US07498337B2
5-[2-(methylsulfinyl)phenyl]-1H-pyrrole-3-carbaldehyde
To a solution of 5-[2-(methylthio)phenyl]-1H-pyrrole-3-carbaldehyde (200 mg) in ethyl acetate (10 mL) was added 3-chloroperbenzoic acid (238 mg) under ice-cooling. After stirring at room temperature for 1 hr, a saturated sodium thiosulfate aqueous solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate) to give the title compound as a pale-pink powder (yield 160 mg, 75%).

reactant | 5-[2-(methylthio)phenyl]-1H-pyrrole-3-carbaldehyde | 200 mg | CSC1=C(C=CC=C1)C1=CC(=CN1)C=O | C12H11NOS
reactant | 3-chloroperbenzoic acid | 238 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 5-[2-(methylsulfinyl)phenyl]-1H-pyrrole-3-carbaldehyde | yield 160 mg, 75% | CS(=O)C1=C(C=CC=C1)C1=CC(=CN1)C=O | C12H11NO2S
